US05594021
N-(4-chloro-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonamide was prepared in the same manner as described in Example 41. Reaction of 4-chloro-3-methyl-5-aminoisoxazole (0.61 mmoles, 81 mg), NaH (1.5 mmoles), 61 mg), and 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonyl chloride (0.74 mmoles, 0.27 g) in THF (4ml) yielded, after flash chromatography using 50% ethyl acetate/hexanes followed by recrystallization from ethyl acetate and hexanes, 0.23 g (81%) of a light brown solid, m.p. 178°-181° C.

reactant | 4-chloro-3-methyl-5-aminoisoxazole | 0.61 mmoles, 81 mg | ClC=1C(=NOC1N)C | C4H5ClN2O
reactant | NaH | 1.5 mmoles | [H-].[Na+]
reactant | 2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonyl chloride | 0.74 mmoles, 0.27 g | C1OC=2C=C(CC3=C(C4=C(S3)C=CC=C4)S(=O)(=O)Cl)C=CC2O1 | C16H11ClO4S2
solvent | THF | 4ml | C1CCOC1 | C4H8O
product | N-(4-chloro-3-methyl-5-isoxazolyl)-2-[3,4-(methylenedioxy)benzyl]benzo[b]thiophene-3-sulfonamide | ClC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC1=CC3=C(C=C1)OCO3)C=CC=C2)C | C20H15ClN2O5S2
